US04212762
1-(4'-octyloxybenzoyloxy) phenyl-2-(4-cyanophenyl) ethane
The following are successively charged into an Erlenmeyer flask: 0.24 g (≃0.0027 mole) of CuCN, 1.5 ml of dimethylformamide (DMF) and 1 g (>0.002 mole) of 1-(4'-octyloxybenzoyloxy) phenyl-2-(4-bromophenyl) ethane. The whole is brought to 160° C. fot six hours while stirring briskly. The mixture is then allowed to cool to ambient temperature. It is poured into a solution of 0.7 g of ethylene diamine in 10 ml of water. It is stirred again for an hour. Benzene is poured into the solution in order to dissolve and extract the cyano product. Filtering is carried out on infus orial earth. The liquid is poured off. The aqueous fraction is washed with benzene. The organic fractions are placed together. They are washed with water until neutral. Drying is carried out on anhydrous Na2SO4. The solvent is evaporated, and chromatography is performed on a column with the mixture of 50% benzene and 50% hexane as an eluent. The product obtained is recrystallised in this mixture of solvents. 600 mg of product are obtained. The molar efficiency is 66%.

reactant | CuCN | 0.0027 mole, 0.24 g | C(#N)[Cu]
reactant | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
reactant | 1-(4'-octyloxybenzoyloxy) phenyl-2-(4-bromophenyl) ethane | >0.002 mole, 1 g | C(CCCCCCC)OC1=CC=C(C(=O)OC2(CC=CC=C2)CCC2=CC=C(C=C2)Br)C=C1 | C29H35BrO3
reactant | ethylene diamine | 0.7 g | C(CN)N | C2H8N2
solvent | water | 10 ml | O | H2O
solvent | Benzene | C1=CC=CC=C1 | C6H6
product | 1-(4'-octyloxybenzoyloxy) phenyl-2-(4-cyanophenyl) ethane | 600 mg | C(CCCCCCC)OC1=CC=C(C(=O)OC2(CC=CC=C2)CCC2=CC=C(C=C2)C#N)C=C1 | C30H35NO3
